US07037935B2
In an analogous manner to that described in Example 36c), the reaction of 4-[2-(3-chloro-phenyl)-ethyl]-phenylamine with itaconic acid yields the (RS)-1-{4-[2-(3-chloro-phenyl)-ethyl]-phenyl}-5-oxo-pyrrolidine-3-carboxylic acid as an off-white solid; MS: m/e=342 (M−H)+.

reactant | 4-[2-(3-chloro-phenyl)-ethyl]-phenylamine | ClC=1C=C(C=CC1)CCC1=CC=C(C=C1)N | C14H14ClN
reactant | itaconic acid | C(C(=C)CC(=O)O)(=O)O | C5H6O4
product | (RS)-1-{4-[2-(3-chloro-phenyl)-ethyl]-phenyl}-5-oxo-pyrrolidine-3-carboxylic acid | ClC=1C=C(C=CC1)CCC1=CC=C(C=C1)N1CC(CC1=O)C(=O)O | C19H18ClNO3
